US07018988B2
(2S,4EZ)-N-(3,4-dimethoxybenzyl)-4-(ethoxyimino)-1-[(2-oxo-6-pentyl-2H-pyran-3-yl)carbonyl]-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(ethoxyimino)-2-pyrrolidinecarboxylic acid, 2-oxo-6-pentyl-2H-pyran-3-carbonyl chloride, and 3,4-dimethoxybenzylamine the title compound was obtained in 41% purity by LC/MS. MS(ESI+): m/z=514.2.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(ethoxyimino)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOCC)C(=O)O | C12H20N2O5
reactant | 2-oxo-6-pentyl-2H-pyran-3-carbonyl chloride | O=C1OC(=CC=C1C(=O)Cl)CCCCC | C11H13ClO3
reactant | 3,4-dimethoxybenzylamine | COC=1C=C(CN)C=CC1OC | C9H13NO2
product | (2S,4EZ)-N-(3,4-dimethoxybenzyl)-4-(ethoxyimino)-1-[(2-oxo-6-pentyl-2H-pyran-3-yl)carbonyl]-2-pyrrolidinecarboxamide | COC=1C=C(CNC(=O)[C@H]2N(CC(C2)=NOCC)C(=O)C=2C(OC(=CC2)CCCCC)=O)C=CC1OC | C27H35N3O7
